US04065504
10 g of acetovanillone (0.06 mol) was methylated with 10.25 g of dimethyl sulfate (0.083 mol) and 8.0 g of sodium carbonate. The reaction mixture was stirred at 80°-90° C for 2 hr. while 6 ml of water were added dropwise over the last 1.2 hr. Addition of water, acidification, and extraction with benzene produced a nearly quantitative yield of 2,4-dimethoxyacetophenone containing less than 0.3% acetovanillone.

reactant | acetovanillone | 0.06 mol, 10 g | CC(=O)C1=CC(OC)=C(O)C=C1 | C9H10O3
reactant | dimethyl sulfate | 0.083 mol, 10.25 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium carbonate | 8.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 6 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,4-dimethoxyacetophenone | quantitative yield | CC(=O)C1=C(C=C(C=C1)OC)OC | C10H12O3
